US08859588B2
5-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-2-ylamine
To a solution of (2S,3′S)-2-methyl-1′-(6-nitro-pyridin-3-yl)-[1,3′]bipyrrolidinyl (0.110 g, 0.398 mmol) in methanol (30 mL) in a 250 mL parr bottle was added 5% Pd/C (0.030 g). The reaction mixture was allowed to shake under a hydrogen atmosphere (55 psi) at room temperature for 3 hours. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated under vacuum to afford 0.091 g (93%) of title compound.

reactant | (2S,3′S)-2-methyl-1′-(6-nitro-pyridin-3-yl)-[1,3′]bipyrrolidinyl | 0.398 mmol, 0.110 g | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C14H20N4O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.030 g | [Pd] | Pd
product | 5-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-2-ylamine | 0.091 g, 93% | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=CC(=NC1)N | C14H22N4
